US06337403B1
5(i) (2R,3R)-2-(2-Fluorophenyl)-3-[(trans-2-phenyl-1,3-dioxan-5-yl)thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol
0.12 ml (0.59 mmol) of a 4.9 M methanolic solution of sodium methoxide were added to a solution of 0.93 g (4.0 mmol) of (2R,3S)-2-(2-fluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane [prepared as described in Chem. Pharm. Bull., 43, 441-449 (1995)] and 1.14 g (4.8 mmol) of trans-5-(acetylthio)-2-phenyl-1,3-dioxane [prepared as described in Japanese Patent Application (Kokai) Hei 8-333350] in 15 ml of ethanol. The resulting mixture was stirred at 87° C. for 13 hours. After cooling, the reaction mixture was partitioned between ethyl acetate and an aqueous ammonium chloride solution. The organic solution was washed with saturated aqueous sodium chloride solution and then concentrated under reduced pressure. The resulting oily residue was purified by chromatography on a silica gel (75 g) column using a 3:2 mixture of ethyl acetate and hexane as the eluant to afford 0.68 g (yield 40%) of the title compound as a non-crystalline solid.

reactant | sodium methoxide | C[O-].[Na+]
reactant | (2R,3S)-2-(2-fluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | 4.0 mmol, 0.93 g | FC1=C(C=CC=C1)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H12FN3O
reactant | trans-5-(acetylthio)-2-phenyl-1,3-dioxane | 4.8 mmol, 1.14 g | C(C)(=O)S[C@H]1CO[C@@H](OC1)C1=CC=CC=C1 | C12H14O3S
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (2R,3R)-2-(2-Fluorophenyl)-3-[(trans-2-phenyl-1,3-dioxan-5-yl)thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 0.68 g, yield 40% | FC1=C(C=CC=C1)[C@@](CN1N=CN=C1)([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=CC=C1)O | C22H24FN3O3S
